US05475114
(A) N-(5-Propyl-1H-pyrazol-3-yl)acetamidine hydrochloride
A 11.5 g portion of 3-amino-5-propyl-1H-pyrazole was dissolved in 60 ml of acetonitrile, and 12.8 g of ethyl acetimidate hydrochloride was added to the above solution with cooling on an ice bath. The resulting mixture was stirred for 1 hour at the same temperature and then overnight at room temperature.

reactant | 3-amino-5-propyl-1H-pyrazole | NC1=NNC(=C1)CCC | C6H11N3
reactant | ethyl acetimidate hydrochloride | 12.8 g | Cl.C(C)(OCC)=N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | N-(5-Propyl-1H-pyrazol-3-yl)acetamidine hydrochloride | Cl.C(CC)C1=CC(=NN1)NC(C)=N | InChI=1S/C8H14N4.ClH/c1-3-4-7-5-8(12-11-7)10-6(2)9;/h5H,3-4H2,1-2H3,(H3,9,10,11,12);1H
